US06878718B2
Ethyl (2S)-2-[(4,4,-dimethyl-3-oxo-1-cyclobutenyl)amino]-3-(2,6-dimethoxy[1,1′-biphenyl]-4-yl)propanoate
The title compound was prepared in a similar manner to that of the compound of Example 41 from ethyl (2S)-2-amino-3-(2,6-dimethoxy[1,1′-biphenyl]-4-yl)propanoate (1.5 g, 4.5 mol), and 3-hydroxy-4,4-dimethyl-2-cyclobutenone (0.5 g, 4.5 mmol) in DCM (15 ml) as a white foam (1.8 g, 93%). δH (300 MHz, DMSO d6) 8.68 (1H, d, J 8.6 Hz), 7.22-7.37 (3H, m), 7.18 (2H, d, J 8.3 Hz), 6.78 (2H, d, J 8.4 Hz), 4.46 (1H, s), 4.32 (1H, m), 4.21 (2H, q, J 7.1 Hz), 3.69 (6H, s), 3.24 (1H, dd, J 13.8, 5.9 Hz), 3.09 (1H, dd, J 13.8, 9.1 Hz), 1.24 (3H, t, J 7.1 Hz), 1.16 (3H, s), 1.08 (3H, s); m/z (ES+, 70V) 424 (MH+).

reactant | ethyl (2S)-2-amino-3-(2,6-dimethoxy[1,1′-biphenyl]-4-yl)propanoate | 4.5 mol, 1.5 g | N[C@H](C(=O)OCC)CC1=CC(=C(C(=C1)OC)C1=CC=CC=C1)OC | C19H23NO4
reactant | 3-hydroxy-4,4-dimethyl-2-cyclobutenone | 4.5 mmol, 0.5 g | OC1=CC(C1(C)C)=O | C6H8O2
solvent | DCM | 15 ml, 1.8 g | C(Cl)Cl | CH2Cl2
product | Ethyl (2S)-2-[(4,4,-dimethyl-3-oxo-1-cyclobutenyl)amino]-3-(2,6-dimethoxy[1,1′-biphenyl]-4-yl)propanoate | CC1(C(C=C1N[C@H](C(=O)OCC)CC1=CC(=C(C(=C1)OC)C1=CC=CC=C1)OC)=O)C | C25H29NO5
